US05599814
d. Methyl 2-amino-4,6-dimethylbenzoate
To a stirred solution of sodium hydroxide (0.013 g, 0.33 mM) in methanol (1.7 mL) was added 5,7-dimethyl-2H-3,1-benzoxazine-2,4(1H)-dione (0.67 g, 3.5 mM). The mixture was heated to 60° C. and maintained at that temperature for 45 min during which vigorous gas evolution ensued and all solids dissolved completely. The solution was cooled and concentrated using a rotary evaporator. The residue was dissolved in ethyl acetate, and the ethyl acetate solution was washed with water, dried (Na2SO4), filtered and concentrated to provide the title compound (0.54 g, 86%) as a tan solid; MS(CI); 180 (M+H).

reactant | sodium hydroxide | 0.33 mM, 0.013 g | [OH-].[Na+]
reactant | 5,7-dimethyl-2H-3,1-benzoxazine-2,4(1H)-dione | 3.5 mM, 0.67 g | CC1=CC(=CC2=C1C(OC(N2)=O)=O)C | C10H9NO3
solvent | methanol | 1.7 mL | CO | CH4O
product | Methyl 2-amino-4,6-dimethylbenzoate | 0.54 g, 86% | NC1=C(C(=O)OC)C(=CC(=C1)C)C | C10H13NO2
